US06852711B2
3-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-[2-(5-hydroxymethyl-thiophen-3-yl)-ethyl]-6-isopropyl-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 16a using 4-hydroxy-6-[2-(5-hydroxymethyl-thiophen-3-yl)-ethyl]-6-isopropyl-5,6-dihydro-pyran-2-one (Example E-23; 0.67 mmol), toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl)ester (Example BB-2; 0.74 mmol), potassium carbonate (2.7 mmol) in DMF (5 mL), mp 76-80° C. MS (APCI): 503 (M−H).

reactant | 4-hydroxy-6-[2-(5-hydroxymethyl-thiophen-3-yl)-ethyl]-6-isopropyl-5,6-dihydro-pyran-2-one | 0.67 mmol | OC1=CC(OC(C1)(C(C)C)CCC1=CSC(=C1)CO)=O | C15H20O4S
reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl)ester | 0.74 mmol | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SS(=O)(=O)C1=CC=C(C=C1)C | C19H24O3S2
reactant | potassium carbonate | 2.7 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-[2-(5-hydroxymethyl-thiophen-3-yl)-ethyl]-6-isopropyl-5,6-dihydro-pyran-2-one | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SC=1C(OC(CC1O)(C(C)C)CCC1=CSC(=C1)CO)=O | C27H36O5S2
